SFP candidate L047_4C_R068, corner 11
Rind feed lx 0.02790602
Lfilter lx out 3.76e-07
Cbypass out 0 100n
Rcap out cpos 0.00125
Cbulk cpos damp 9.68e-05
Rdamp damp 0 0.07072
Vfeed feed 0 DC 3.3 AC 1
.end
